US07820654B2
4-(4-Fluoro-phenylsulfanyl)-6-phenyl-pyrimidin-2-ylamine was prepared from 4-Chloro-6-phenyl-pyrimidin-2-ylamine (0.5 g, 2.44 mmol) using 4-fluorothiophenol (0.31 mg, 2.44 mmol) in iso-propanol (15 mL) at 80° C. for 6 hours. Yield: 64%.

reactant | 4-Chloro-6-phenyl-pyrimidin-2-ylamine | 2.44 mmol, 0.5 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N | C10H8ClN3
reactant | 4-fluorothiophenol | 2.44 mmol, 0.31 mg | FC1=CC=C(C=C1)S | C6H5FS
solvent | iso-propanol | 15 mL | C(C)(C)O | C3H8O
product | 4-(4-Fluoro-phenylsulfanyl)-6-phenyl-pyrimidin-2-ylamine | Yield: 64% | FC1=CC=C(C=C1)SC1=NC(=NC(=C1)C1=CC=CC=C1)N | C16H12FN3S
